US08937078B2
Step A: Preparation of 3-nitrophenyl phenyl sulfide.
A mixture of thiophenol (1.0 g, 9.1 mmol), 3-iodonitrobenzene (1.9 g, 7.6 mmol), CuI (0.14 g, 0.76 mmol), K2CO3 (1.67 g, 12.1 mmol), and DMF (10 mL) was heated to 100° C. in a flame-dried sealed tube for 16 h. The mixture was allowed to cool and was poured over ice. The resulting mixture was extracted with EtOAc (2×), and the organic extracts were combined and washed sequentially with equal volumes of aqueous 1M HCl, water, and aqueous 1M NaOH. The solution was dried, concentrated, and the residue was purified by FCC (100:0 to 95:5 hexanes/EtOAc) to provide the titled compound, which was contaminated with ca. 10% thiophenol (1.43 g), and was taken on to subsequent steps without further purification.

reactant | thiophenol | 9.1 mmol, 1.0 g | C1(=CC=CC=C1)S | C6H6S
reactant | 3-iodonitrobenzene | 7.6 mmol, 1.9 g | IC=1C=C(C=CC1)[N+](=O)[O-] | C6H4INO2
reactant | K2CO3 | 12.1 mmol, 1.67 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | CuI | 0.76 mmol, 0.14 g | [Cu]I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-nitrophenyl phenyl sulfide | C1(=CC=CC=C1)SC1=CC(=CC=C1)[N+](=O)[O-] | C12H9NO2S
